### PR TITLE
[Merged by Bors] - feat: port `cc` tactic (3/3)

### PR DESCRIPTION
**Pull request by Komyyy**
https://leanprover.zulipchat.com/#narrow/stream/270676-lean4/topic/cc.20tactic.20comes.20to.20Lean4

---

- [x] depends on: #11960

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by semorrison** [comment]
This PR/issue depends on:
* leanprover-community/mathlib4#5886
By **[Dependent Issues](https://github.com/z0al/dependent-issues)** (🤖). Happy coding!

**Review by Vierkantor — COMMENTED** [review]
I'm very happy that this tactic is being ported! However, I find it difficult to start reviewing the PR (my browser can barely open the diff). Would you be able to split it up into several smaller pull requests so we can get this moving?

**Comment by digama0** [comment]
Note: I have pushed an update to the lean toolchain because this PR was on a [buggy version](https://leanprover.zulipchat.com/#narrow/stream/113488-general/topic/Potential.20data.20loss.20from.20.60lake.20clean.60.20with.204.2E2.2E0-rc2.2F3/near/397875701) of the toolchain. **WARNING**: checking out old commits of this PR using v4.2.0-rc2 or v4.2.0-rc3 can cause `lake clean` to delete your mathlib folder! If you need to do so, make sure to delete `lakefile.olean` manually before running any `lake` commands.

**Comment by Komyyy** [comment]
https://leanprover.zulipchat.com/#narrow/stream/270676-lean4/topic/cc.20tactic.20comes.20to.20Lean4

**Comment by Komyyy** [comment]
My English of the documents is possibly poor, please correct.

**Comment by Komyyy** [comment]
@Vierkantor 
> I'm very happy that this tactic is being ported! However, I find it difficult to start reviewing the PR (my browser can barely open the diff). Would you be able to split it up into several smaller pull requests so we can get this moving?

I've splitted it up now. Sorry for the long absence of updates.

File: test/cc.lean [hunk 1]
```diff
@@ -0,0 +1,522 @@
...
+example (a b : Char) : a = 'h' → b = 'w' → a = b → False := by
+  cc
+
+example (a b : String) : a = "hello" → b = "world" → a = b → False := by
+  cc
+
+example (a b c : String) : a = c → a = "hello" → c = "world" → c = b → False := by
+  cc
+
+end CCValue
```
Comment (Vierkantor) [inline test/cc.lean:522]:
```suggestion
end CCValue

section Config

/!- Tests for the configuration options -/

/-- `ignoreInstances := false` means instances won't be unified. -/
example {G : Type*} [AddCommMonoid G] (a b : G) :
    @HAdd.hAdd _ _ _ (@instHAdd _ (@AddSemigroup.toAdd _ AddCommSemigroup.toAddSemigroup)) a b =
      @HAdd.hAdd _ _ _ (@instHAdd _ (@AddSemigroup.toAdd _ AddMonoid.toAddSemigroup)) a b := by
  success_if_fail_with_msg "cc tactic failed"
    cc (config := { ignoreInstances := false, ac := false })
  cc (config := { ac := false })

end Config
```

File: Mathlib/Tactic/CC/Addition.lean [hunk 2]
```diff
@@ -0,0 +1,1892 @@
...
+
+@[inline]
+def eraseRRHSOccs (e lhs : ACApps) : CCM Unit :=
+  eraseROccs e lhs false
+
+open MessageData in
+def composeAC (lhs rhs : ACApps) (H : DelayedExpr) : CCM Unit := do
+  let some x := (← get).getVarWithLeastRHSOccs lhs | failure
+  let some ent := (← get).acEntries.find? x | failure
+  let occs := ent.RRHSOccs
```
[the remark this answers is not in the document]
Comment (Komyyy) [reply Mathlib/Tactic/CC/Addition.lean:882]: I ported this code from C++ code directly, so it's safer not to change this.
Please ask @leodemoura.

File: Mathlib/Tactic/CC.lean [hunk 3]
```diff
@@ -0,0 +1,325 @@
...
+  s.eqcOfCore e e []
+#align cc_state.eqc_of Mathlib.Tactic.CC.CCState.eqcOf
+
+/-- The equivalence class of `e`. -/
+def eqcSize (s : CCState) (e : Expr) : Nat :=
+  s.eqcOf e |>.length
+#align cc_state.eqc_size Mathlib.Tactic.CC.CCState.eqcSize
+
+/-- Continue to apply `f` using following expressions in the equivalence class of `first` to `a`
+until `first` is found. -/
```
Comment (Vierkantor) [inline Mathlib/Tactic/CC.lean:183]:
```suggestion
/-- Fold `f` over the equivalence class of `c`, accumulating the result in `a`.
Loops until the element `first` is encountered.

See `foldEqc` for folding `f` over all elements of the equivalence class.
-/
```

File: Mathlib/Tactic/CC.lean [hunk 4]
```diff
@@ -0,0 +1,325 @@
...
+The `cc` implementation in Lean does a few more tricks: for example it
+derives `a = b` from `Nat.succ a = Nat.succ b`, and `Nat.succ a != Nat.zero` for any `a`.
+
+* The starting reference point is Nelson, Oppen, [Fast decision procedures based on congruence
+closure](http://www.cs.colorado.edu/~bec/courses/csci5535-s09/reading/nelson-oppen-congruence.pdf),
+Journal of the ACM (1980)
+
+* The congruence lemmas for dependent type theory as used in Lean are described in
+[Congruence closure in intensional type theory](https://leanprover.github.io/papers/congr.pdf)
+(de Moura, Selsam IJCAR 2016). -/
```
Comment (Vierkantor) [inline Mathlib/Tactic/CC.lean:245]: I think this docstring should be used only on the `cc` tactic elaborator itself (and then perhaps copied via `@[inherit_doc cc]`). Otherwise someone will modify one but not the other.

```suggestion
/-- Solve the metavariable using the congruence closure tactic.

See the docstring on the `cc` tactic for a full explanation of how the tactic works.
-/
```

Comment (Vierkantor) [reply Mathlib/Tactic/CC.lean:245]: An alternative is to keep the explanation of the algorithm (everything from "The tactic works by ..." onwards) here, removing it from the `cc` tactic docstring. The tactic user doesn't need to know too much about the implementation, after all.

File: Mathlib/Tactic/CC.lean [hunk 5]
```diff
@@ -0,0 +1,325 @@
...
+```
+
+As an example requiring some thinking to do by hand, consider:
+
+```lean
+example (f : ℕ → ℕ) (x : ℕ)
+    (H1 : f (f (f x)) = x) (H2 : f (f (f (f (f x)))) = x) :
+    f x = x := by
+  cc
+```
```
Comment (Vierkantor) [inline Mathlib/Tactic/CC.lean:31]: Could you add this example as a testcase?

File: test/cc.lean [hunk 6]
```diff
@@ -0,0 +1,539 @@
...
+
```
Comment (Vierkantor) [inline test/cc.lean:526]: I see you copied most of the tests from the Lean 3 implementation, good idea! I couldn't find the equivalent of the following tests:
```lean
-- tests/run/1442.lean
protected def rel : ℤ × ℤ → ℤ × ℤ → Prop
| ⟨n₁, d₁⟩ ⟨n₂, d₂⟩ := n₁ * d₂ = n₂ * d₁

private def mul' : ℤ × ℤ → ℤ × ℤ → ℤ × ℤ
| ⟨n₁, d₁⟩ ⟨n₂, d₂⟩ := ⟨n₁ * n₂, d₁ * d₂⟩

instance a : is_associative ℤ (*) := ⟨int.mul_assoc⟩

instance c : is_commutative ℤ (*) := ⟨int.mul_comm⟩

example : ∀(a b c d : ℤ × ℤ), rel a c → rel b d → rel (mul' a b) (mul' c d) :=
λ⟨n₁, d₁⟩ ⟨n₂, d₂⟩ ⟨n₃, d₃⟩ ⟨n₄, d₄⟩,
  assume (h₁ : n₁ * d₃ = n₃ * d₁) (h₂ : n₂ * d₄ = n₄ * d₂),
  show (n₁ * n₂) * (d₃ * d₄) = (n₃ * n₄) * (d₁ * d₂),
    by cc
```

```lean
-- tests/run/1608.lean
example {α : Type} {a b : α} (h : ¬ (a = b)) : b ≠ a :=
by cc

example {α : Type} {a b : α} (h : ¬ (a = b)) : ¬ (b = a) :=
by cc
```

**Review by Vierkantor — COMMENTED** [review]
I'm very impressed by all the work! Just a few more comments and (assuming the extra tests pass) I think the tactic is totally ready to go!

File: Mathlib/Tactic/CC.lean (hunk 4 above)
Comment (Komyyy) [reply Mathlib/Tactic/CC.lean:245]: If we use the `inherit_doc` attribute on the elaborator, tactic docs can't be displayed.

File: Mathlib/Tactic/CC.lean [hunk 7]
```diff
@@ -0,0 +1,286 @@
...
+
+As an example requiring some thinking to do by hand, consider:
+
+```lean
+example (f : ℕ → ℕ) (x : ℕ)
+    (H1 : f (f (f x)) = x) (H2 : f (f (f (f (f x)))) = x) :
+    f x = x := by
+  cc
+``` -/
```
Comment (Vierkantor) [inline Mathlib/Tactic/CC.lean:227]: Ah, with my second suggestion I meant that this comment could be something like:
````suggestion
/--
Applies congruence closure to solve the given metavariable.
This procedure tries to solve the goal by chaining
equalities from context and applying congruence (i.e. if `a = b`, then `f a = f b`).

The tactic works by building an equality matching graph. It's a graph where
the vertices are terms and they are linked by edges if they are known to
be equal. Once you've added all the equalities in your context, you take
the transitive closure of the graph and, for each connected component
(i.e. equivalence class) you can elect a term that will represent the
whole class and store proofs that the other elements are equal to it.
You then take the transitive closure of these equalities under the
congruence lemmas.
The `cc` implementation in Lean does a few more tricks: for example it
derives `a = b` from `Nat.succ a = Nat.succ b`, and `Nat.succ a != Nat.zero` for any `a`.
* The starting reference point is Nelson, Oppen, [Fast decision procedures based on congruence
closure](http://www.cs.colorado.edu/~bec/courses/csci5535-s09/reading/nelson-oppen-congruence.pdf),
Journal of the ACM (1980)
* The congruence lemmas for dependent type theory as used in Lean are described in
[Congruence closure in intensional type theory](https://leanprover.github.io/papers/congr.pdf)
(de Moura, Selsam IJCAR 2016).
-/
````

That way it wouldn't duplicate the `cc` elaborator, while still providing important information. Does that work for you?

Comment (Komyyy) [reply Mathlib/Tactic/CC.lean:227]: Good.

**Review by Vierkantor — APPROVED** [review]
Great work, thank you very much! Let's Get This Merged :tada: 

bors r+
